US08404679B2
2-(4-Chloro-phenyl)-N-[(3RS,4SR)-1-(1-cyclopropylmethyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-N-methyl-acetamide
In analogy to the procedure described for the synthesis of example 88, the title compound 2-(4-chloro-phenyl)-N-[(3RS,4SR)-1-(1-cyclopropylmethyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-N-methyl-acetamide was prepared from (1-cyclopropylmethyl-piperidin-4-yl)-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-methanone instead of N-[(3RS,4SR)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide using 4-chlorophenylacetyl chloride instead of 4-fluorobenzoyl chloride and was obtained as an off-white semi-solid. MS m/e: 562.2 [M]+.

reactant | (1-cyclopropylmethyl-piperidin-4-yl)-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-methanone | C1(CC1)CN1CCC(CC1)C(=O)N1CC(C(C1)NC)C1=CC(=C(C=C1)Cl)Cl | C21H29Cl2N3O
reactant | 4-chlorophenylacetyl chloride | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
product | 2-(4-chloro-phenyl)-N-[(3RS,4SR)-1-(1-cyclopropylmethyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-N-methyl-acetamide | ClC1=CC=C(C=C1)CC(=O)N(C)C1CN(CC1C1=CC(=C(C=C1)Cl)Cl)C(=O)C1CCN(CC1)CC1CC1 | C29H34Cl3N3O2
